US05629322
Ozone in oxygen (4%) was passed through a solution of 2-(R),6-dimethyl-1-benzyloxycarbonylamino-5-heptene (9.8 g) in 150 mL of methylene chloride at -78° C. until the blue color persisted. Nitrogen was then bubbled for 15 mins. 16 mL of dimethyl sulfide was added and the mixture was stirred 1 hr as it warmed to room temperature and then concentrated to give a residual oil. This was taken up in 100 mL of acetone and cooled in ice bath. Jones reagent was added dropwise until orange color was sustained. After stirring 30 mis, 4 mL of isoprpopyl alcohol was added and the mixture was stirred for an additional 15 mins. Solvent was then removed in vacuo and the residue was stirred with water and ethyl acetate. The organic phase was separated and the aqueous phase was extracted with ethyl acetate. The combined ethyl acetate extracts were dried over anhydrous magnesium sulfate and the solvent was removed in vacuo. The resulting residue was purified on silica gel using first 10% ethyl acetate in hexane as solvent to give 2.0 g of 5(R)-methyl-1-benzyloxycarbonyl-2-piperidone as an oil.

reactant | Ozone | O=[O+][O-] | O3
reactant | 2-(R),6-dimethyl-1-benzyloxycarbonylamino-5-heptene | 9.8 g | C[C@@H](CNC(=O)OCC1=CC=CC=C1)CCC=C(C)C | C17H25NO2
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | oxygen | O=O | O2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 5(R)-methyl-1-benzyloxycarbonyl-2-piperidone | 2.0 g | C[C@@H]1CCC(N(C1)C(=O)OCC1=CC=CC=C1)=O | C14H17NO3
